US09421205B2
(a) (1-Oxypyridin-3-yl)acetonitrile (I115)
30% Hydrogen peroxide (12 mL) was added to a solution of 3-pyridylacetonitrile (7.50 g, 63.5 mmol) in acetic acid (40 mL) and the mixture heated at 95° C. for 20 hours. The reaction mixture was then cooled and stirred at room temperature for 72 hours. Water (35 mL) was then added and the solution concentrated under reduced pressure. Water (2×100 mL) was added to the residue and solution concentrated under reduced pressure. Residual water was removed azeotropically using toluene (2×100 mL) to yield the title compound (I115) (8.3 g, 97%) as a pale yellow solid which was used without further purification.

reactant | Hydrogen peroxide | 12 mL | OO | H2O2
reactant | 3-pyridylacetonitrile | 63.5 mmol, 7.50 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | Water | 35 mL | O | H2O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | (1-Oxypyridin-3-yl)acetonitrile | C1=CC(=C[N+](=C1)[O-])CC#N | C7H6N2O
